US04288437
(E)-2-{[[2-(Dimethylamino)ethyl]amino]phenylmethylene}benzo-[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-benzoyl-benzo[b]thiophen-3-ol, phosphorus(V) chloride and a solution of 2 parts by volume of N,N-dimethyl-ethylenediamine in 3 parts by volume of water with a yield of 42% of theory. Orange yellow crystals; m.p. 123°-125° C. (ethyl acetate).

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N,N-dimethyl-ethylenediamine | CN(CCN)C | C4H12N2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-2-{[[2-(Dimethylamino)ethyl]amino]phenylmethylene}benzo-[b]thiophen-3(2H)-one | yield of 42% | CN(CCN\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2)C | C19H20N2OS
